US07172749B2
In another particular, which includes a quinazoline that is substituted by two different reactive groups at positions 6 and 7 thereof, 3,4-dichloro-6-fluoroaniline is reacted with 4-chloro-7-fluoro-6-nitroquinazoline, so as to produce 4-[(3,4-dichloro-6-fluorophenyl)amino]-7-fluoro-6-nitroquinazoline. The 4-[(3,4-dichloro-6-fluorophenyl)amino]-7-fluoro-6-nitroquinazoline is then reacted with a sodium salt of 3-(4-morpholinyl-1-propanol), so as to produce 4-[(3,4-dichloro-6-fluoro-phenyl)amino]-7-[3-(4-morpholinyl)propoxy]-6-nitroquinazoline, which is reduced, by means of an ethanolic solution of hydrazine hydrate and Raney®Nickel, so as to produce 6-amino-4-[(3,4-dichloro-6-fluorophenyl)amino]-7-[3-(4-morpholinyl)propoxy]quinazoline. The product is then reacted with a carbon-11 labeled acryloyl chloride so as to produce a carbon-11 labeled N-{4-[(3,4-dichloro-6-fluorophenyl)amino]-7-[3-(4-morpholinyl)propoxy]quinazoline-6-yl}acrylamide (carbon-11 labeled morpholino-substituted Compound 3).

reactant | quinazoline | N1=CN=CC2=CC=CC=C12 | C8H6N2
reactant | 3,4-dichloro-6-fluoroaniline | ClC=1C=C(N)C(=CC1Cl)F | C6H4Cl2FN
reactant | 4-chloro-7-fluoro-6-nitroquinazoline | ClC1=NC=NC2=CC(=C(C=C12)[N+](=O)[O-])F | C8H3ClFN3O2
product | 4-[(3,4-dichloro-6-fluorophenyl)amino]-7-fluoro-6-nitroquinazoline | ClC=1C=C(C(=CC1Cl)F)NC1=NC=NC2=CC(=C(C=C12)[N+](=O)[O-])F | C14H6Cl2F2N4O2
